US07612201B2
4-[2-(6-Benzyloxy-3-methyl-1H-indol-5-yl)-2-oxo-ethyl]-piperazine-1-carboxylic acid benzyl ester
Compound 1-(1-acetyl-6-benzyloxy-3-methyl-1H-indol-5-yl)-2-bromo-ethanone (0.039 g, 0.1 mmol), K2CO3 (0.019 g, 0.14 mmol) and Cbz-piperidine (0.026 ml, 0.1 mmol) was stirred in DMF (2 ml) at room temperature for 5 hours. The solvent was removed in vacuo and the residue redissolved in DCM and washed with water, brine, dried over MgSO4. Purification by column chromatography in hexane/EtOAc (3:2) afforded the product (0.008 g, 17%). LC/MS: RT=2.236 min. 498 (MH+).

reactant | 1-(1-acetyl-6-benzyloxy-3-methyl-1H-indol-5-yl)-2-bromo-ethanone | 0.1 mmol, 0.039 g | C(C)(=O)N1C=C(C2=CC(=C(C=C12)OCC1=CC=CC=C1)C(CBr)=O)C | C20H18BrNO3
reactant | K2CO3 | 0.14 mmol, 0.019 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Cbz-piperidine | 0.1 mmol, 0.026 ml | C(=O)(OCC1=CC=CC=C1)N1CCCCC1 | C13H17NO2
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-[2-(6-Benzyloxy-3-methyl-1H-indol-5-yl)-2-oxo-ethyl]-piperazine-1-carboxylic acid benzyl ester | 0.008 g, 17% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)CC(=O)C=1C=C2C(=CNC2=CC1OCC1=CC=CC=C1)C | C30H31N3O4
